US07429665B2
2-(2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenyl]-ethyl]-quinoline
Following the procedure for the preparation of 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline but substituting methyl hydrazine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=6.2 Hz, 2 H), 8.06 (t, J=10.4 Hz, 2 H), 7.77 (d, J=7.1 Hz, 1 H), 7.70 (t, J=8.3 Hz, 1 H), 7.57 (s, 1H), 7.50 (t, J=9.1 Hz, 1 H), 7.35 (d, J=8.3 Hz, 2H), 7.24 (m, 3H), 7.20 (d, J=5.0 Hz, 2H), 3.97 (s, 3H), 3.31 (m, 2H), 3.18 (m, 2H); MS: (M+H m/z=391.0).

reactant | 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1 | C25H20N4
reactant | methyl hydrazine | CNN | CH6N2
product | 2-(2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenyl]-ethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1 | C26H22N4
